* TLV9002S - Rev. A
* Created by Paul Goedeke; July 19, 2018
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
* Copyright 2018 by Texas Instruments Corporation
******************************************************
* MACRO-MODEL SIMULATED PARAMETERS:
******************************************************
* OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
* UNITY GAIN BANDWIDTH (GBW)
* INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
* POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
* DIFFERENTIAL INPUT IMPEDANCE (Zid)
* COMMON-MODE INPUT IMPEDANCE (Zic)
* OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
* OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
* INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
* INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
* OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
* SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* QUIESCENT CURRENT (Iq)
* SETTLING TIME VS. CAPACITIVE LOAD (ts)
* SLEW RATE (SR)
* SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
* LARGE SIGNAL RESPONSE
* OVERLOAD RECOVERY TIME (tor)
* INPUT BIAS CURRENT (Ib)
* INPUT OFFSET CURRENT (Ios)
* INPUT OFFSET VOLTAGE (Vos)
* INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
* INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
* SHUTDOWN FUNCTIONALITY
******************************************************
.subckt TLV9002S ENABLE IN+ IN- VCC VEE OUT
******************************************************
* MODEL DEFINITIONS:
.model BB_SW VSWITCH(Ron=50 Roff=1e12 Von=700e-3 Voff=0)
.model ESD_SW VSWITCH(Ron=50 Roff=1e12 Von=250e-3 Voff=0)
.model OL_SW VSWITCH(Ron=1e-3 Roff=1e9 Von=900e-3 Voff=800e-3)
.model OR_SW VSWITCH(Ron=10e-3 Roff=1e9 Von=1e-3 Voff=0)
.model R_NOISELESS RES(T_ABS=-273.15)
******************************************************


V_GRp       60 MID 180
V_GRn       61 MID -180
V_ISCp      54 MID 42
V_ISCn      55 MID -42
V_ORn       44 VCLP -1.22
V11         59 43 0
V_ORp       42 VCLP 1.22
V12         58 41 0
V4          24 OUT 0
VCM_MIN     81 VEE_B -100M
VCM_MAX     82 VCC_B 100M
V_OS        31 IIBP 396.11U
XU2         ENABLE VCC VEE MID EN CNTL_0
SW2         VEE ENABLE VEE ENABLE  S_VSWITCH_1
SW1         ENABLE VCC ENABLE VCC  S_VSWITCH_2
C_out       24 MID 10P 
SRdummy     MID 24 EN MID  S_VSWITCH_3
SRx         24 25 EN MID  S_VSWITCH_4
XU7         26 MID 27 MID EN MID G2_ZO_0
XU6         28 MID CL_CLAMP 24 EN MID G1_ZO_0
XU3         29 MID MID CLAMP EN MID VCCS_LIM_2_EN_0
XU5         VCC VEE MID EN VCCS_IQ_W_EN_0
R50         EN MID R_NOISELESS 1 
XU9         VCC VEE EN MID MID N_IIBN IBIAS_ENABLE_N_0
XU8         VCC VEE EN MID MID IIBP IBIAS_ENABLE_P_0
XVOS_VCM    30 31 VCC VEE VOS_SRC_0
C30         28 27 15.92U  
R85         27 MID R_NOISELESS 30K 
R84         27 28 R_NOISELESS 10K 
R83         28 MID R_NOISELESS 1 
GVCCS10     33 MID 32 MID  -1
C29         34 MID 19.89F  
R82         32 34 R_NOISELESS 10K 
R81         32 26 R_NOISELESS 68K 
R80         26 MID R_NOISELESS 1 
R79         25 MID R_NOISELESS 1 
XU1         35 MID MID 25 VCCS_LIM_ZO_0
R78         35 MID R_NOISELESS 101 
C22         35 33 15.92F 
R65         35 33 R_NOISELESS 10K 
R64         33 MID R_NOISELESS 1 
XCLAWn      MID VIMON VEE_B 36 VCCS_LIM_CLAW-_0
Xe_n        ESDp IIBP VNSE_0
Xi_nn       N_IIBN MID FEMT_0_0
Xi_np       MID IIBP FEMT_0_0
S5          VEE ESDp VEE ESDp  S_VSWITCH_5
S4          VEE N_IIBN VEE N_IIBN  S_VSWITCH_6
S2          N_IIBN VCC N_IIBN VCC  S_VSWITCH_7
S3          ESDp VCC ESDp VCC  S_VSWITCH_8
C28         37 MID 1P 
R77         38 37 R_NOISELESS 100 
C27         39 MID 1P 
R76         40 39 R_NOISELESS 100 
R75         MID 41 R_NOISELESS 1 
GVCCS8      41 MID 42 MID  -1
R74         43 MID R_NOISELESS 1 
GVCCS7      43 MID 44 MID  -1
C25         45 MID 25F 
R69         MID 45 R_NOISELESS 1MEG 
GVCCS6      45 MID VSENSE MID  -1U
C20         CLAMP MID 151.6N 
R68         MID CLAMP R_NOISELESS 1MEG 
R44         MID 29 R_NOISELESS 1MEG 
XVCCS_LIM_1 46 47 MID 29 VCCS_LIM_1_0
R61         MID 48 R_NOISELESS 273.3609 
C16         48 49 1.1018N 
R58         49 48 R_NOISELESS 100MEG 
GVCCS2      49 MID VEE_B MID  -258.98M
R57         MID 49 R_NOISELESS 1 
R56         MID 50 R_NOISELESS 273.3609 
C15         50 51 1.1018N 
R55         51 50 R_NOISELESS 100MEG 
GVCCS1      51 MID VCC_B MID  -258.98M
R54         MID 51 R_NOISELESS 1 
R49         MID 52 R_NOISELESS 337.4K 
C14         52 53 591.7F 
R48         53 52 R_NOISELESS 100MEG 
G_adjust    53 MID ESDp MID  -44.81M
Rsrc        MID 53 R_NOISELESS 1 
XIQPos      VIMON MID MID VCC VCCS_LIMIT_IQ_0
XIQNeg      MID VIMON VEE MID VCCS_LIMIT_IQ_0
C_DIFF      ESDp N_IIBN 1P 
XCL_AMP     54 55 VIMON MID 56 57 CLAMP_AMP_LO_0
SOR_SWp     CLAMP 58 CLAMP 58  S_VSWITCH_9
SOR_SWn     59 CLAMP 59 CLAMP  S_VSWITCH_10
XGR_AMP     60 61 62 MID 63 64 CLAMP_AMP_HI_0
R39         60 MID R_NOISELESS 1T 
R37         61 MID R_NOISELESS 1T 
R42         VSENSE 62 R_NOISELESS 1M 
C19         62 MID 1F 
R38         63 MID R_NOISELESS 1 
R36         MID 64 R_NOISELESS 1 
R40         63 65 R_NOISELESS 1M 
R41         64 66 R_NOISELESS 1M 
C17         65 MID 1F 
C18         MID 66 1F 
XGR_SRC     65 66 CLAMP MID VCCS_LIM_GR_0
R21         56 MID R_NOISELESS 1 
R20         MID 57 R_NOISELESS 1 
R29         56 67 R_NOISELESS 1M 
R30         57 68 R_NOISELESS 1M 
C9          67 MID 1F 
C8          MID 68 1F 
XCL_SRC     67 68 CL_CLAMP MID VCCS_LIM_4_0
R22         54 MID R_NOISELESS 1T 
R19         MID 55 R_NOISELESS 1T 
XCLAWp      VIMON MID 69 VCC_B VCCS_LIM_CLAW+_0
R12         69 VCC_B R_NOISELESS 1K 
R16         69 70 R_NOISELESS 1M 
R13         VEE_B 36 R_NOISELESS 1K 
R17         71 36 R_NOISELESS 1M 
C6          71 MID 1F 
C5          MID 70 1F 
G2          VCC_CLP MID 70 MID  -1M
R15         VCC_CLP MID R_NOISELESS 1K 
G3          VEE_CLP MID 71 MID  -1M
R14         MID VEE_CLP R_NOISELESS 1K 
XCLAW_AMP   VCC_CLP VEE_CLP VOUT_S MID 72 73 CLAMP_AMP_LO_0
R26         VCC_CLP MID R_NOISELESS 1T 
R23         VEE_CLP MID R_NOISELESS 1T 
R25         72 MID R_NOISELESS 1 
R24         MID 73 R_NOISELESS 1 
R27         72 74 R_NOISELESS 1M 
R28         73 75 R_NOISELESS 1M 
C11         74 MID 1F 
C10         MID 75 1F 
XCLAW_SRC   74 75 CLAW_CLAMP MID VCCS_LIM_3_0
H2          40 MID V11 -1
H3          38 MID V12 1
C12         SW_OL MID 100P 
R32         76 SW_OL R_NOISELESS 100 
R31         76 MID R_NOISELESS 1 
XOL_SENSE   MID 76 39 37 OL_SENSE_0
S1          28 27 SW_OL MID  S_VSWITCH_11
H1          77 MID V4 1K
S7          VEE OUT VEE OUT  S_VSWITCH_12
S6          OUT VCC OUT VCC  S_VSWITCH_13
R11         MID 78 R_NOISELESS 1T 
R18         78 VOUT_S R_NOISELESS 100 
C7          VOUT_S MID 1P 
E5          78 MID OUT MID  1
C13         VIMON MID 1N 
R33         77 VIMON R_NOISELESS 100 
R10         MID 77 R_NOISELESS 1T 
R47         79 VCLP R_NOISELESS 100 
C24         VCLP MID 100P 
E4          79 MID CL_CLAMP MID  1
R46         MID CL_CLAMP R_NOISELESS 1K 
G9          CL_CLAMP MID CLAW_CLAMP MID  -1M
R45         MID CLAW_CLAMP R_NOISELESS 1K 
G8          CLAW_CLAMP MID 45 MID  -1M
R43         MID VSENSE R_NOISELESS 1K 
G15         VSENSE MID CLAMP MID  -1M
C4          46 MID 1F 
R9          46 80 R_NOISELESS 1M 
R7          MID 81 R_NOISELESS 1T 
R6          82 MID R_NOISELESS 1T 
R8          MID 80 R_NOISELESS 1 
XVCM_CLAMP  83 MID 80 MID 82 81 VCCS_EXT_LIM_0
E1          MID 0 84 0  1
R89         VEE_B 0 R_NOISELESS 1 
R5          85 VEE_B R_NOISELESS 1M 
C3          85 0 1F 
R60         84 85 R_NOISELESS 1MEG 
C1          84 0 1 
R3          84 0 R_NOISELESS 1T 
R59         86 84 R_NOISELESS 1MEG 
C2          86 0 1F 
R4          VCC_B 86 R_NOISELESS 1M 
R88         VCC_B 0 R_NOISELESS 1 
G17         VEE_B 0 VEE 0  -1
G16         VCC_B 0 VCC 0  -1
R_PSR       87 83 R_NOISELESS 1K 
G_PSR       83 87 50 48  -1M
R2          47 N_IIBN R_NOISELESS 1M 
R1          87 88 R_NOISELESS 1M 
R_CMR       30 88 R_NOISELESS 1K 
G_CMR       88 30 52 MID  -1M
C_CMn       N_IIBN MID 5P 
C_CMp       MID ESDp 5P 
R53         N_IIBN MID R_NOISELESS 1T 
R52         MID ESDp R_NOISELESS 1T 
R35         IN- N_IIBN R_NOISELESS 10M 
R34         IN+ ESDp R_NOISELESS 10M 

.MODEL S_VSWITCH_1 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL S_VSWITCH_2 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL S_VSWITCH_3 VSWITCH (RON=40K ROFF=1.48G VON=500M VOFF=400M)
.MODEL S_VSWITCH_4 VSWITCH (RON=400K ROFF=1T VON=500M VOFF=400M)
.MODEL S_VSWITCH_5 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=100M)
.MODEL S_VSWITCH_6 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=100M)
.MODEL S_VSWITCH_7 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=100M)
.MODEL S_VSWITCH_8 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=100M)
.MODEL S_VSWITCH_9 VSWITCH (RON=10M ROFF=1T VON=10M VOFF=0)
.MODEL S_VSWITCH_10 VSWITCH (RON=10M ROFF=1T VON=10M VOFF=0)
.MODEL S_VSWITCH_11 VSWITCH (RON=1M ROFF=1T VON=500M VOFF=100M)
.MODEL S_VSWITCH_12 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=100M)
.MODEL S_VSWITCH_13 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=100M)

.ENDS TLV9002S
*
.SUBCKT CNTL_0  EN_IN VCC VEE MID OUT

.PARAM VSMAX = 6
.PARAM VSMIN = 1.7
.PARAM ENLH = 0.8

E1 N1 MID VALUE = {IF(V(VCC,VEE)<=VSMAX & V(VCC,VEE)>=VSMIN & V(EN_IN,VEE)>=ENLH, 1, 0)}

RS1 N1 N2 10K
RS2 N1 N3 600
D1  N2 N3 DD
C1  N2 MID 10N
VREF NR MID 0.5

GCOMP MID OUT VALUE = {0.5*(SGN(V(N2,NR)) - ABS(SGN(V(N2,NR))) + 2)}
R1 N4 OUT 1M
C2 OUT MID 1P
.MODEL DD D RS=0.001 N = 0.001 
.ENDS CNTL_0 
*


.SUBCKT G2_ZO_0  IOUTP IOUTN VINP VINN EN MID
.PARAM GAIN = -4
G1 IOUTP IOUTN VALUE = {GAIN*V(EN,MID)*V(VINP,VINN)}
.ENDS
*


.SUBCKT G1_ZO_0  IOUTP IOUTN VINP VINN EN MID
.PARAM GAIN = -87
G1 IOUTP IOUTN VALUE = {GAIN*V(EN,MID)*V(VINP,VINN)}
.ENDS
*


.SUBCKT VCCS_LIM_2_EN_0  VC+ VC- IOUT+ IOUT- EN MID
.PARAM GAIN = 11.15E-3
.PARAM IPOS = 0.350
.PARAM INEG = -0.350
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(EN,MID)*V(VC+,VC-),INEG,IPOS)}
.ENDS
*


.SUBCKT VCCS_IQ_W_EN_0  VCC VEE MID EN
.PARAM IQ_EN = 60U
.PARAM IQ_DIS = 40N
G1 VCC VEE VALUE = {V(EN,MID)*IQ_EN + (1- V(EN,MID))*IQ_DIS}
.ENDS
*


.SUBCKT IBIAS_ENABLE_N_0  VCC VEE EN MID VIN IOUT
.PARAM IIB_EN = 3P
.PARAM IIB_DIS = 5F
G1 IOUT MID VALUE = {V(EN,MID)*IIB_EN + (1 - V(EN,MID))*IIB_DIS}
.ENDS
*


.SUBCKT IBIAS_ENABLE_P_0  VCC VEE EN MID VIN IOUT
.PARAM IIB_EN = 5P
.PARAM IIB_DIS = 5F
G1 IOUT MID VALUE = {V(EN,MID)*IIB_EN + (1 - V(EN,MID))*IIB_DIS}
.ENDS
*


.SUBCKT VOS_SRC_0  V+ V- REF+ REF-
E1 V+ 1 TABLE {(V(REF+, V-))} =
+(0, 0.8E-3)
+(1, 0.8E-3)
+(1.3, 0)
+(5.5, 0)
E2 1 V- TABLE {(V(V-, REF-))}=
+(-0.7, -2E-4)
+(-0.5, -2E-4)
+(-0.4, 0)
+(5.5, 0)
.ENDS VOS_SRC_0 
*


.SUBCKT VCCS_LIM_ZO_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 100
.PARAM IPOS = 35E3
.PARAM INEG = -35E3
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*


.SUBCKT VCCS_LIM_CLAW-_0  VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {ABS(V(VC+,VC-))} =
+(00.0000, 0.00002)
+(14.0000, 0.000379)
+(28.0000, 0.000877)
+(37.3333, 0.001382)
+(37.8000, 0.00142)
+(38.7333, 0.001493)
+(39.6667, 0.001583)
+(40.6000, 0.001703)
+(41.5333, 0.00191)
+(42.0000, 0.00204)
.ENDS VCCS_LIM_CLAW-_0 
*


.SUBCKT VNSE_0  1 2
.PARAM FLW=10
.PARAM NLF=115
.PARAM NVR=27
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS
*


.SUBCKT FEMT_0_0   1 2
.PARAM FLWF=0.001
.PARAM NLFF=23
.PARAM NVRF=23
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
.ENDS
*


.SUBCKT VCCS_LIM_1_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-4
.PARAM IPOS = .5
.PARAM INEG = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*


.SUBCKT VCCS_LIMIT_IQ_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-3
G1 IOUT- IOUT+ VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS
*


.SUBCKT CLAMP_AMP_LO_0  VC+ VC- VIN COM VO+ VO-
.PARAM G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
*


.SUBCKT CLAMP_AMP_HI_0  VC+ VC- VIN COM VO+ VO-
.PARAM G=10
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
*


.SUBCKT VCCS_LIM_GR_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.7
.PARAM INEG = -0.7
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*


.SUBCKT VCCS_LIM_4_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.8
.PARAM INEG = -0.8
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*


.SUBCKT VCCS_LIM_CLAW+_0  VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {ABS(V(VC+,VC-))} =
+(00.00, 0.0000200)
+(13.67, 0.0003467)
+(27.33, 0.0007994)
+(36.44, 0.001309)
+(36.90, 0.001351)
+(37.81, 0.001455)
+(38.72, 0.001600)
+(39.63, 0.001812)
+(40.54, 0.002117)
+(41.00, 0.002292)
.ENDS VCCS_LIM_CLAW+_0 
*


.SUBCKT VCCS_LIM_3_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.400
.PARAM INEG = -0.400
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*


.SUBCKT OL_SENSE_0  COM SW+ OLN  OLP
GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>10E-3 | V(OLP,COM)>10E-3),1,0)}
.ENDS
*


.SUBCKT VCCS_EXT_LIM_0  VIN+ VIN- IOUT- IOUT+ VP+ VP-
.PARAM GAIN = 1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS
*



